US07687482B2
Sodium ethanethiolate (6 mmol, 0.5 g) and 3-phenoxypropyl bromide (5 mmol, 1.1 g) in ethanol were refluxed overnight. After removal of solvent, Ether was added, washed with H20 and evaporated to give 3-phenoxypropylethyl sulfide. It was treated with 1 equivalent of acrylic acid in acetone in the presence of 4 equivalents of 12 N HCl under N2 at room temperature overnight and then at 50° C. for 3 h, affording 3-(S-ethyl-3-phenoxypropylsulfoniumyl)propionic acid chloride as a white powder. It was then subjected to the general procedure 1 to give compound 573 as a white powder (0.58 g, 25% overall yield). Anal. (C14H22Na2O8P2S.0.5 H2O) C, H.

reactant | Sodium ethanethiolate | 6 mmol, 0.5 g | C(C)[S-].[Na+]
reactant | 3-phenoxypropyl bromide | 5 mmol, 1.1 g | O(C1=CC=CC=C1)CCCBr | C9H11BrO
solvent | ethanol | C(C)O | C2H6O
product | 3-phenoxypropylethyl sulfide | O(C1=CC=CC=C1)CCCSCC | C11H16OS
